US04912231
A(3) (trans)-1-Benzoyl-4-tosyloxy-L-proline methyl ester
540 Grams (2.84 moles) of technical p-toluenesulfonyl chloride were charged to a 5 liter flask. 1.5 Liters of anhydrous pyridine was added and the flask swirled to dissolve. Gradually, 600 g (2.40 moles) of (trans)-1-benzoyl-4-hydroxy-L-proline methyl ester were added and dissolved by swirling. The clear solution was maintained at room temperature and the conversion followed by TLC. After the starting material completely disappeared, the reaction mixture was transferred to a 12 liter beaker with an efficient agitator. 0.8 Liters of ice water and some tosylate seeds were added. Thick crystal slurry formed in about 10 minutes. Strong agitation was maintained and another 7 liters of an ice-water mixture were added over a period of one hour. The crystals were collected on a filter, the cake pressed down and washed with cold water until the effluent was free of chloride ions and suction applied to the cake until no more liquid emerged. The filtrate was discarded and the product dried to constant weight.

reactant | p-toluenesulfonyl chloride | 2.84 moles | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (trans)-1-benzoyl-4-hydroxy-L-proline methyl ester | 2.40 moles, 600 g | COC([C@H]1N(C[C@@H](C1)O)C(C1=CC=CC=C1)=O)=O | C13H15NO4
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (trans)-1-Benzoyl-4-tosyloxy-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1)C(C1=CC=CC=C1)=O)=O | C20H21NO6S
